Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Inability to urinate
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old male who complains of Abd pain,
N/V. Patient with n/v last night and this AM after working
outside in the heat all day. Works as a ___, and
states that it was up to 120 degrees in the truck. Was working
all day, not drinking very much and got very hot, feeling
dehydrated. Notably he has not urinated in close to 48 hours he
thinks. At the end of his day of work, he did sit down and try 
to
drink, though her became nauseous with this and vomited up all 
of
the water that he tool in. Given his symptoms, he presented to
the ED the following day.

Notably, he had similar symptoms in the past when he was
hospitalized with ___ which resolved with fluid.  No HA,
visual changes, neck pain. No CP, SOB. No current abdominal 
pain.
Intermittent back spasms. No dysuria. No paresthesias, no
weakness. No hematemesis or coffee grounds. No black or bloody
stools. No raw meat recently. No skin rashes, of
photosensitivity. Has not taken many NSAIDs recently, though 
does
occasionally take ibuprofen.

 
Past Medical History:
Hypertension
Back pain/paresthesias radiating sciatic distribution right
History of back injury
Diabetes Mellitus Type 2: Diagnosis ___
 
Social History:
___
Family History:
No family history of medical problems, no history of lupus, 
renal
disease.
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: ___ Temp: 98.0 PO BP: 93/53 L Lying HR: 75 RR:
16 O2 sat: 97% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress, lying
comfortably in bed.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

DISCHARGE PHYSICAL EXAM:
========================
VITALS: ___ 2344 Temp: 98.2 PO BP: 101/60 L Lying HR: 74 
RR:
18 O2 sat: 96% O2 delivery: Ra 

GENERAL: Alert and interactive. In no acute distress, lying
comfortably in bed.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: Thyroid is normal in size and texture, no nodules. No
cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. Gait is normal. AOx3.

 
Pertinent Results:
ADMISSION LABS:
===============

___ 12:54PM   WBC-11.6* RBC-5.35 HGB-16.5 HCT-46.6 MCV-87 
MCH-30.8 MCHC-35.4 RDW-12.5 RDWSD-39.4
___ 12:54PM   NEUTS-67.1 ___ MONOS-8.3 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-7.78* AbsLymp-2.71 AbsMono-0.96* 
AbsEos-0.04 AbsBaso-0.04
___ 12:54PM   PLT COUNT-269
___ 12:54PM   ALT(SGPT)-68* AST(SGOT)-31 CK(CPK)-347* ALK 
PHOS-72 TOT BILI-0.7
___ 12:54PM   LIPASE-46
___ 12:54PM   GLUCOSE-225* UREA N-45* CREAT-4.6*# 
SODIUM-133* POTASSIUM-4.4 CHLORIDE-88* TOTAL CO2-22 ANION 
GAP-23*

DISCHARGE LABS:
=================

___ 05:40AM BLOOD WBC-7.4 RBC-4.85 Hgb-14.9 Hct-42.8 MCV-88 
MCH-30.7 MCHC-34.8 RDW-12.3 RDWSD-39.8 Plt ___
___ 03:10PM BLOOD Glucose-193* UreaN-28* Creat-1.1 Na-135 
K-4.7 Cl-103 HCO3-28 AnGap-4*
___ 03:10PM BLOOD Calcium-9.1 Phos-2.2* Mg-1.7
___ 03:24PM BLOOD ___ pO2-64* pCO2-49* pH-7.34* 
calTCO2-28 Base XS-0
___ 03:24PM BLOOD Lactate-1.9

IMAGING/STUDIES:
================
Renal US ___
Normal renal ultrasound.  No hydronephrosis identified.

___ 11:13AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 
Leuks-NEG
___ 11:13AM URINE Color-Straw Appear-Clear Sp ___
___ 06:27PM URINE RBC-2 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 06:27PM URINE CastHy-13*
___ 06:27PM URINE Hours-RANDOM UreaN-363 Creat-287 Na-48 
TotProt-35 Prot/Cr-0.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with acute renal failure, most 
likely secondary to severe dehydrated with most likely prerenal 
___.

=============
ACUTE ISSUES:
=============
#Acute renal failure: Patient presented with elevated Cr to 4.6 
on admission, decreased to 1.1 at discharge with IV fluids. UA 
was normal with evidence of some protein in urine on initial 
urinalysis as well as glucose on follow-up UA. There was no 
evidence of granular casts. Nephrology was not consulted given 
improvement in Cr but given that he has had a couple episodes of 
severe ___ related to dehydration, he may benefit from C3/C4 
testing, ANCA testing, and repeat Cr testing as an outpatient. 
He reports good PO intake for the last several days despite 
presenting with prerenal ___. 

#Leukocytosis: Patient presented with mild leukocytosis with WBC 
11.6, no localizing signs of infection. It resolved to normal 
limits with fluids, likely initially a concentrated sample.

#Anion gap metabolic acidosis: Likely I/s/o renal 
failure,uremia. Resolved with 23 down to 12.

===============
CHRONIC ISSUES:
===============
#HTN: Hold home lisinopril I/s/o ___. Holding on discharge but 
please restart as outpatient.

#DMII: Hold home Metformin, Glimipride. Put on HISS. Please 
discuss insulin use at discharge given Hgb A1c > 9.

TRANSITIONAL ISSUES:
===================
Discharge Cr 1.1

HELD MEDICATIONS: Ibuprofen, losartan

[] Please recheck Chem 10 with Cr at next follow-up visit. 
Restart losartan if Cr continues to be normal.
[] Please discuss ongoing glucose management including possible 
initiation of insulin given his poor diabetic control.
[] Please get urine protein/cr ratio to evaluate for diabetic 
nephropathy
[] Consider further renal workup including C3/C4 and ANCA given 
severe ___ noted on admission. 
[] ALT was mildly elevated at 68 and CK was elevated at 347. 
This may be related to dehydration but please recheck LFTs on 
discharge follow up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. glimepiride 1 mg oral DAILY 
2. Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
3. Lisinopril 40 mg PO DAILY 
4. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  glimepiride 1 mg oral DAILY  
2.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4. HELD- Lisinopril 40 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until your doctor tells you to (it can 
hurt your kidneys)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Kidney Injury related to Dehydration
Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for coming to ___!

Why were you admitted?
- You were admitted due to nausea and vomiting with concern for 
kidney damage
- You were unable to urinate for 2 days

What happened while you were in the hospital?
- You received IV fluids
- Your kidney function improved to normal
- You had a kidney ultrasound which did not show any 
abnormalities

What should you do when you leave the hospital?
- You should see your PCP ___ 1 week of discharge. We were 
unable to set up the appointment for you.
- You should also see a nephrologist (kidney doctor) since you 
have had these episodes twice now. It is important to determine 
if you have other renal damage that makes it more likely for you 
to have these episodes
- Be sure to drink plenty of fluids EVERY DAY when you are 
working hard or in the heat
- It is important to control your diabetes well as your sugar 
levels are very high and can cause kidney damage. Please talk to 
your doctor about starting insulin or other medications for your 
diabetes.

It was a pleasure taking care of you! We wish you all the best.
- Your ___ Team
 
Followup Instructions:
___